US05773388
Synthesis of 1-(4-Chlorophenyl)-4,4-dimethylpentane-1,3-dione (Compound No. 303)
30 g of methyl 4-chlorobenzoate was dissolved in anhydrous THF, and 16.9 g of 60% sodium hydride was added under cooling with ice. 21.1 g of pinacolone was added dropwise, and the mixture was stirred under heating at 50° C. for 6 hours. Then, 100 ml of water was added dropwise under cooling with ice, and the solvent was distilled off under reduced pressure. 200 ml of water and 100 ml of 6N hydrochloric acid were added thereto, and then extraction with ethyl acetate was carried out. The extract layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developing solvent: chloroform/hexane=2/8) to obtain 43 g of the desired product as a viscous liquid. nD20.0 1.5012

reactant | methyl 4-chlorobenzoate | 30 g | ClC1=CC=C(C(=O)OC)C=C1 | C8H7ClO2
reactant | sodium hydride | 16.9 g | [H-].[Na+]
reactant | pinacolone | 21.1 g | CC(C(C)(C)C)=O | C6H12O
reactant | water | 100 ml | O | H2O
solvent | THF | C1CCOC1 | C4H8O
product | 1-(4-Chlorophenyl)-4,4-dimethylpentane-1,3-dione | 43 g | ClC1=CC=C(C=C1)C(CC(C(C)(C)C)=O)=O | C13H15ClO2
